US07776897B2
3-(5,6,7,8,9,10-hexahydro[1,2,4]triazolo[4,3-a]azocin-3-yl)-3-(2-thienyl)cyclobutanol (2.73 g) was dissolved in methylene chloride (330 ml) and then tetra-n-propylammonium perruthenate(VII) (316 mg) and NMO (1.58 g) were added thereto, followed by stirring at room temperature for 15 hours. The reaction solution was subjected to evaporation under reduced pressure and the resulting residue was purified by column chromatography (methanol:chloroform=3:97) to obtain 2.16 g of 3-(5,6,7,8,9,10-hexahydro[1,2,4]triazolo[4,3-a]azocin-3-yl)-3-(2-thienyl)cyclobutanone (pale yellow solid).

reactant | 3-(5,6,7,8,9,10-hexahydro[1,2,4]triazolo[4,3-a]azocin-3-yl)-3-(2-thienyl)cyclobutanol | 2.73 g | N=1N=C(N2C1CCCCCC2)C2(CC(C2)O)C=2SC=CC2 | C16H21N3OS
reactant | NMO | 1.58 g | C[N+]1(CCOCC1)[O-] | C5H11NO2
solvent | methylene chloride | 330 ml | C(Cl)Cl | CH2Cl2
product | 3-(5,6,7,8,9,10-hexahydro[1,2,4]triazolo[4,3-a]azocin-3-yl)-3-(2-thienyl)cyclobutanone | 2.16 g | N=1N=C(N2C1CCCCCC2)C2(CC(C2)=O)C=2SC=CC2 | C16H19N3OS
